US08466114B2
To a stirred solution of 1-(4-bromo-2-nitro-phenoxy)-cyclopropanecarboxylic acid ethyl ester (3.5 g, 10.6 mmol) in glacial acetic acid (40 mL) was added iron powder (5.9 g, 106.1 mmol) at room temperature and the reaction mixture was heated at 60° C. for 3 h. The mixture was cooled to room temperature, diluted with ethyl acetate, and filtered through celite bed. The filtrate was concentrated, and the resulting residue was taken in ethyl acetate and washed with water and saturated sodium bicarbonate solution, then the organic layer was dried over sodium sulfate, concentrated and the resulting residue was purified by silica gel column chromatography to furnish 6-bromospiro[4H-1,4-benzoxazine-2,1′-cyclopropane]-3-one (2.51 g).

reactant | 1-(4-bromo-2-nitro-phenoxy)-cyclopropanecarboxylic acid ethyl ester | 10.6 mmol, 3.5 g | C(C)OC(=O)C1(CC1)OC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C12H12BrNO5
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 106.1 mmol, 5.9 g | [Fe] | Fe
product | 6-bromospiro[4H-1,4-benzoxazine-2,1′-cyclopropane]-3-one | 2.51 g | BrC=1C=CC2=C(NC(C3(CC3)O2)=O)C1 | C10H8BrNO2
